US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(3-chloro-4-hydroxyphenyl)propyl]imidazole was reacted with 4-chloromethyl-2-(5-methyl-2-thienyl)oxazole to obtain 4-[2-chloro-4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(5-methyl-2-thienyl)oxazole. The yield was 83%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 95-96° C.

reactant | 1-[3-(3-chloro-4-hydroxyphenyl)propyl]imidazole | ClC=1C=C(C=CC1O)CCCN1C=NC=C1 | C12H13ClN2O
reactant | 4-chloromethyl-2-(5-methyl-2-thienyl)oxazole | ClCC=1N=C(OC1)C=1SC(=CC1)C | C9H8ClNOS
product | 4-[2-chloro-4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(5-methyl-2-thienyl)oxazole | yield was 83% | ClC1=C(OCC=2N=C(OC2)C=2SC(=CC2)C)C=CC(=C1)CCCN1C=NC=C1 | C21H20ClN3O2S
